2119-08-18 07:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Liver following - gave albumin, lactulose
   - In ICU for insulin drip - will d/c drip tonight. plan to c/o to floor
   tomorrow.
   - NGT placed, good placement
   - Hypernatremia - another 1L of D5W
   - Ordered TSH, will discuss synthroid tomorrow
   - Lactulose from NGT held for high residuals
   - large BM x1 after lactulose enema.
   - Discontinued coumadin given INR>3
   No change MS
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2119-8-17**] 12:48 AM
   Piperacillin - [**2119-8-17**] 02:46 AM
   Ciprofloxacin - [**2119-8-17**] 10:19 AM
   Piperacillin/Tazobactam (Zosyn) - [**2119-8-18**] 02:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2119-8-17**] 10:18 AM
   Heparin Sodium (Prophylaxis) - [**2119-8-17**] 11:46 PM
   Morphine Sulfate - [**2119-8-18**] 05:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-8-18**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.2
C (97.1
   HR: 110 (90 - 128) bpm
   BP: 132/90(101) {108/82(91) - 169/104(118)} mmHg
   RR: 15 (14 - 30) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 92.2 kg (admission): 90.6 kg
   Height: 67 Inch
             Total In:
                                                                  3,487 mL
                                                                    926 mL
   PO:
             TF:
   IVF:
                                                                  3,087 mL
                                                                    926 mL
   Blood products:
                                                                     50 mL
   Total out:
                                                                  1,363 mL
                                                                  1,305 mL
   Urine:
                                                                    763 mL
                                                                    155 mL
   NG:
                                                                    600 mL
                                                                  1,150 mL
   Stool:
   Drains:
   Balance:
                                                                  2,124 mL
                                                                   -379 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///21/
   Physical Examination
   Cardiovascular: NG tube in place
   PERRLA, unable to follow commands+language
   CVS: RRR, no MRG, S1S2 clear
   Rhonchorous throughout lung fields.
   abd:+ve bs/ tense/ tympanic/ round.
   little urine, hematuria, no clots
   wwp
   Labs / Radiology
   147 K/uL
   10.5 g/dL
   137 mg/dL
   3.1 mg/dL
   21 mEq/L
   4.2 mEq/L
   44 mg/dL
   109 mEq/L
   147 mEq/L
   32.6 %
   13.0 K/uL
        [image002.jpg]
                             [**2119-8-17**]  02:56 AM
                             [**2119-8-17**]  09:58 AM
                             [**2119-8-17**]  02:35 PM
                             [**2119-8-17**]  10:00 PM
                             [**2119-8-18**]  03:09 AM
                             [**2119-8-18**]  04:45 AM
   WBC
   7.1
   9.4
   13.0
   Hct
   30.0
   30.6
   32.6
   Plt
   102
   108
   147
   Cr
   2.9
   2.9
   2.8
   3.0
   2.8
   3.1
   Glucose
   191
   195
   188
   183
   660
   137
   Other labs: PT / PTT / INR:36.7/39.4/3.8, ALT / AST:[**9-18**], Alk Phos / T
   Bili:120/1.5, Differential-Neuts:84.7 %, Lymph:8.5 %, Mono:2.9 %,
   Eos:3.6 %, Albumin:4.8 g/dL, LDH:273 IU/L, Ca++:10.6 mg/dL, Mg++:2.1
   mg/dL, PO4:3.2 mg/dL
   Imaging: no imaging today. NG tube in place
   Microbiology: 4 blood cx pending.
   UCx pending.
   Peritoneal fluid:gram stain negative, no growth preliminary.
   Toxo Ab pending.
   ECG: none
   Assessment and Plan
 INEFFECTIVE COPING
 HYPERNATREMIA (HIGH SODIUM)
 LIVER FUNCTION ABNORMALITIES
 CIRRHOSIS OF LIVER, ALCOHOLIC
 DIABETES MELLITUS (DM), TYPE II
 ACUTE CONFUSION
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   Leukocytosis: From 9.0 this am to 13.-0 without fever. Pt admitted with
   suspected infection given hyperglycemia, and treated empirically, only
   now developing infection. Regarding source,  SBP v.unlikely since just
   had unremarkable diagnostic tap and on cipro prophylaxis, UTI possible
   given new hematuria on exam today (however INR3.8), line infection, PNA
   to be considered. Difficult to invoke CNS infection given MS [**First Name (Titles) **]
[**Last Name (Titles) 7903**]ted to hepatic encephalopathy, continue to consider. On multiple
   abx, consider c.diff.
   -d/c superfluous/inciting abx (ciprofloxacin)
   - Stool Cx
   -Sputum Cx
   CXR
   -cont zosyn, vanc. Consider flagyll
   Altered mental status:
   Head CT negative. Abd u/s unchanged. Diagnostic para not revealing.
   Hypernatremic. Hyperglycemia and enceph suggests possibility of
   infection. Pt originally presented with abdominal pain that was not
   notable on exam but uncomfortable to patient, even in setting of no
   encephalopathy; pt currently moaning mournfully consistent with past
   presentation.
    has had haldol on the floor, continuing this as prn; not clear whether
   this will be helpful other than as sedative, and will consider very low
   dose morphine as trial of pain relief; Tylenol at low dose also.
   - covering w vanc/zosyn
   - gently correcting hypernatremia though doubt this is major
   contributor, with D5W  for free water deficit.
   -Continue  lactulose enema
   - f/u 4 blood cx pending, Ucx pending, peritoneal fluid gram stain
   negative, no growth preliminary.
   Liver failure
   Not yet listed for transplant. Transplant committee asking for
   colonoscopy and outpatient relapse therapy. Liver today indicated
   continue on this course. DC
d midodrine given HTN. Specific
   interventions:  albumin; lactulose.
   Tense/ obese ascetic abdomen with compartment syndrome possibly
   contributing to ileus and renal failure however unable to remove large
   volumes given risk rapid fluid shifts. Remove 2.5 L ascitic fluid,
   while giving albumin,
   Hyperglycemia / diabetes
   Likely secondary to infection given change over last several days
   coinciding w worsening encephalopathy. GFS ranged 49-153 on insulin
   drip, 170s when drip dc
   -Continue q4 GFS
   - continue lantus/HISS
   Hypernatremia
   Likely 2.2 poor intake.
 NS did nothing to correct this, consistent w
   high sodium avidity. Currently on D5W with free water deficit of 0.7L.
   Once completes this L of D5W, check lytes, consider whether needs
   further.
   Renal failure: 2.8 today from 3.0 y/d.
   ?Abdominal compartment syndrome vs s/p drug toxicity, unclear etiology.
   Liver failure likely contributing to some degree of pre-renal failure
   although the degree of resolution suggests against HRS. Continue
   albumin as per floor team. Follow Cr and urine output closely. No
   urgent indication for HD. Renal following, will follow up recs.
   Hematuria likely related to supratherapeutic INR however in setting
   leukocytosis without source, check UA, U Cx.
   Hypothyroidism
   Mild hypothyroidism from tests from [**8-15**]. Team discontinued prior
   synthroid, not clear why from notes; will discuss with them in AM.
   Coagulopathy/anticoagulation
   Hold warfarin given supratherapeutic INR 3.8
   Check daily INR.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   ICU Care
   Nutrition: via NGT
   Glycemic Control:lantus, HISS
   Lines:
   Dialysis Catheter - [**2119-8-16**] 11:36 PM
   20 Gauge - [**2119-8-16**] 11:36 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: Pantoprazole
   VAP:
   Comments:
   Communication:  Comments:  with wife
   [**Name (NI) 129**] status: Full Code
   Disposition: In ICU for now. Following paracentesis, if stable, to
   floor

2119-08-18 08:41:00 Physician Attending Progress Note
Chief Complaint: hepatic encephalopathy, hyperglycemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Off insulin drip
   NGT placed for lactulose - +++ residuals
   Still encephalopathic
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2119-8-17**] 12:48 AM
   Piperacillin - [**2119-8-17**] 02:46 AM
   Ciprofloxacin - [**2119-8-17**] 10:19 AM
   Piperacillin/Tazobactam (Zosyn) - [**2119-8-18**] 08:14 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2119-8-17**] 10:18 AM
   Heparin Sodium (Prophylaxis) - [**2119-8-17**] 11:46 PM
   Morphine Sulfate - [**2119-8-18**] 05:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-8-18**] 08:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.3
C (97.4
   HR: 118 (97 - 128) bpm
   BP: 152/104(116) {108/82(91) - 169/104(118)} mmHg
   RR: 17 (14 - 30) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 92.2 kg (admission): 90.6 kg
   Height: 67 Inch
             Total In:
                                                                  3,487 mL
                                                                  1,161 mL
   PO:
             TF:
   IVF:
                                                                  3,087 mL
                                                                  1,161 mL
   Blood products:
                                                                     50 mL
   Total out:
                                                                  1,363 mL
                                                                  1,335 mL
   Urine:
                                                                    763 mL
                                                                    185 mL
   NG:
                                                                    600 mL
                                                                  1,150 mL
   Stool:
   Drains:
   Balance:
                                                                  2,124 mL
                                                                   -172 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///21/
   Physical Examination
   Gen: dishelved moaning in bed
   CV: RR
   Chest: poor air movement no wheeze
   Abd: tesne ascites, hypoactigve BS
   Ext: trace edema
   Neuro: altered, only groans, asterixis
   Labs / Radiology
   10.5 g/dL
   147 K/uL
   137 mg/dL
   3.1 mg/dL
   21 mEq/L
   4.2 mEq/L
   44 mg/dL
   109 mEq/L
   147 mEq/L
   32.6 %
   13.0 K/uL
        [image002.jpg]
                             [**2119-8-17**]  02:56 AM
                             [**2119-8-17**]  09:58 AM
                             [**2119-8-17**]  02:35 PM
                             [**2119-8-17**]  10:00 PM
                             [**2119-8-18**]  03:09 AM
                             [**2119-8-18**]  04:45 AM
   WBC
   7.1
   9.4
   13.0
   Hct
   30.0
   30.6
   32.6
   Plt
   102
   108
   147
   Cr
   2.9
   2.9
   2.8
   3.0
   2.8
   3.1
   Glucose
   191
   195
   188
   183
   660
   137
   Other labs: PT / PTT / INR:36.7/39.4/3.8, ALT / AST:[**9-18**], Alk Phos / T
   Bili:120/1.5, Differential-Neuts:84.7 %, Lymph:8.5 %, Mono:2.9 %,
   Eos:3.6 %, Albumin:4.8 g/dL, LDH:273 IU/L, Ca++:10.6 mg/dL, Mg++:2.1
   mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 INEFFECTIVE COPING
 HYPERNATREMIA (HIGH SODIUM)
 LIVER FUNCTION ABNORMALITIES
 CIRRHOSIS OF LIVER, ALCOHOLIC
 DIABETES MELLITUS (DM), TYPE II
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   ALTERED MENTAL STATUS
 attributable to hepatic encephalopathy.
   Precipitants likely multifactorial, including hypernatremia,
   hypokalemia, and contribution of renal failure, on background of prior
   TIPS (increased incidence of encephalopathy).  Lactulose and Rifaximin
   has been planned per NGT
 but now with residuals will need lactulose
   enema to manage encephalopathy.
   RENAL FAILURE
 worsening Cr today- HRS versus ATN, check repeat
   bladder pressure. Monitor uo, BUN, creatinine.  Check urine lytes, UA.
   Continue midodrine, albumin as per Liverl consultation.
   Ileus: in setting of massive ascites but Abd CT on [**8-5**] showed gastric
   outlet obstruction
 need to speak with GI about any further work up
   for this
 he is not in good shape for lying flat for abd ct or egd
   right now but may be necessary to pursue if does not resolve as it
   clrearly outs him at risk for massive aspiration limits meds and
   nutrition. We can do small volume tap t see if improves ilues at all
   but not large as we do not want to exacerbate volume shifts and worsen
   ARF
   HYPERNATREMIA
 requires ongoing free water repletion.  Monitor Na.
   HYPERGLYCEMIA
 poorly controlled diabetes.  Unclear precipitant, but
   concern for infection.  No evidence for DKA.  [**Last Name (un) 294**] folllwing now iff
   insulin drip and getting humalog and lantus but without sig po only d5
   as nutrition/
   PORTAL VEIN THROMBOSIS
 continue anticoagulation.  [**Name (NI) 7883**] PT/INR.
   NUTRITIONAL SUPPORT
 NPO while encephalopathic, high aspiration risk.
   CIRRHOSIS
 not transplant candidate at present but may be in future.
   Continue supportive care.
   Plans otherwise as outlined per Resident note.
   ICU Care
   Nutrition: NPO for now given high residuals
 if do not resolve may
   need TPN/PPN
   Glycemic Control:  humalog and lantus
   Lines:
   Dialysis Catheter - [**2119-8-16**] 11:36 PM
   20 Gauge - [**2119-8-16**] 11:36 PM
   Prophylaxis:
   DVT: couamdin
   Stress ulcer: PPI
   Communication:  with wife
 met with [**Name (NI) 4287**] interpreter yesterday
   Code status: Full code
   Disposition : ICu for now
 but may be floor ready after tap need to
   speak with Dr [**Last Name (STitle) 416**] further

2119-08-19 07:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   C.diff sent. [**Last Name (un) 294**] recommended changing insulin from q4 to Q6 HISS
   since insulin stacks in renal disease and lantus to 30 from 26.
   Ciprofloxacin dc'd.
   am labs showed increase Na, K+ low, thus started on D5W in 40meq KCl.
   Therapeutic tap deferred.
   CXR showed stable bilateral lower lobe atelectasis associated with low
   lung volumes. No new consolidation or pneumothorax.
   Toxo pos/neg result
   Blood/urine cultures pending
   [**8-16**] u cx growing yeast
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2119-8-17**] 12:48 AM
   Piperacillin - [**2119-8-17**] 02:46 AM
   Ciprofloxacin - [**2119-8-17**] 10:19 AM
   Piperacillin/Tazobactam (Zosyn) - [**2119-8-18**] 08:07 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2119-8-19**] 12:08 AM
   Dextrose 50% - [**2119-8-19**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-8-19**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.2
C (97.1
   HR: 76 (76 - 119) bpm
   BP: 133/80(91) {109/55(69) - 169/107(121)} mmHg
   RR: 13 (13 - 19) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92.2 kg (admission): 90.6 kg
   Height: 67 Inch
             Total In:
                                                                  2,742 mL
                                                                    253 mL
   PO:
             TF:
   IVF:
                                                                  2,542 mL
                                                                    203 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                  1,850 mL
                                                                    150 mL
   Urine:
                                                                    500 mL
                                                                    150 mL
   NG:
                                                                  1,350 mL
   Stool:
   Drains:
   Balance:
                                                                    892 mL
                                                                    103 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///20/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   170 K/uL
   9.9 g/dL
   40 mg/dL
   3.1 mg/dL
   20 mEq/L
   3.2 mEq/L
   43 mg/dL
   109 mEq/L
   146 mEq/L
   30.3 %
   11.6 K/uL
        [image002.jpg]
                             [**2119-8-17**]  02:56 AM
                             [**2119-8-17**]  09:58 AM
                             [**2119-8-17**]  02:35 PM
                             [**2119-8-17**]  10:00 PM
                             [**2119-8-18**]  03:09 AM
                             [**2119-8-18**]  04:45 AM
                             [**2119-8-18**]  12:16 PM
                             [**2119-8-18**]  07:30 PM
                             [**2119-8-19**]  03:54 AM
   WBC
   7.1
   9.4
   13.0
   11.6
   Hct
   30.0
   30.6
   32.6
   30.3
   Plt
   102
   108
   147
   170
   Cr
   2.9
   2.9
   2.8
   3.0
   2.8
   3.1
   3.1
   3.1
   3.1
   Glucose
   191
   195
   188
   183
   [**Telephone/Fax (2) 7918**]1
   40
   Other labs: PT / PTT / INR:37.5/44.7/3.9, ALT / AST:[**9-17**], Alk Phos / T
   Bili:118/1.9, Differential-Neuts:84.7 %, Lymph:8.5 %, Mono:2.9 %,
   Eos:3.6 %, Lactic Acid:2.8 mmol/L, Albumin:4.8 g/dL, LDH:248 IU/L,
   Ca++:10.3 mg/dL, Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 INEFFECTIVE COPING
 HYPERNATREMIA (HIGH SODIUM)
 LIVER FUNCTION ABNORMALITIES
 CIRRHOSIS OF LIVER, ALCOHOLIC
 DIABETES MELLITUS (DM), TYPE II
 ACUTE CONFUSION
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   Leukocytosis: From 9.0 this am to 13.-0 without fever. Pt admitted with
   suspected infection given hyperglycemia, and treated empirically, only
   now developing infection. Regarding source,  SBP v.unlikely since just
   had unremarkable diagnostic tap and on cipro prophylaxis, UTI possible
   given new hematuria on exam today (however INR3.8), line infection, PNA
   to be considered. Difficult to invoke CNS infection given MS [**First Name (Titles) **]
[**Last Name (Titles) 7903**]ted to hepatic encephalopathy, continue to consider. On multiple
   abx, consider c.diff.
   - cipro discontinued
   - Stool Cx pending
   -Sputum Cx pending
   -CXR
   -cont zosyn, vanc. Consider flagyll
   Altered mental status:
   Head CT negative. Abd u/s unchanged. Diagnostic para not revealing.
   Hypernatremic. Hyperglycemia and enceph suggests possibility of
   infection. Pt originally presented with abdominal pain that was not
   notable on exam but uncomfortable to patient, even in setting of no
   encephalopathy; pt currently moaning mournfully consistent with past
   presentation.
    has had haldol on the floor, continuing this as prn; not clear whether
   this will be helpful other than as sedative, and will consider very low
   dose morphine as trial of pain relief; Tylenol at low dose also.
   - covering w vanc/zosyn
   - gently correcting hypernatremia though doubt this is major
   contributor, with D5W  for free water deficit.
   -Continue  lactulose enema
   - f/u 4 blood cx pending, Ucx pending, peritoneal fluid gram stain
   negative, no growth preliminary.
   Liver failure
   Not yet listed for transplant. Transplant committee asking for
   colonoscopy and outpatient relapse therapy. Liver today indicated
   continue on this course. DC
d midodrine given HTN. Specific
   interventions:  albumin; lactulose.
   Tense/ obese ascetic abdomen with compartment syndrome possibly
   contributing to ileus and renal failure however unable to remove large
   volumes given risk rapid fluid shifts. Planned to remove 1.5 liters
   yesterday, deferred due to time contraints.
   Hyperglycemia / diabetes
   Likely secondary to infection given change over last several days
   coinciding w worsening encephalopathy. GFS ranged 49-153 on insulin
   drip, 170s when drip dc
   - [**Last Name (un) 294**] recs yesterday
 insuline regimen adjusted.
   Hypernatremia
   D5W with potassium yesterday
 labs this morning still with low sodium,
   high potassium.  Will continue D5W with K for repletion.
   Renal failure: 2.8 today from 3.0 y/d.
   ?Abdominal compartment syndrome vs s/p drug toxicity, unclear etiology.
   Liver failure likely contributing to some degree of pre-renal failure
   although the degree of resolution suggests against HRS. Continue
   albumin as per floor team. Follow Cr and urine output closely. No
   urgent indication for HD. Renal following, will follow up recs.
   Hematuria likely related to supratherapeutic INR however in setting
   leukocytosis without source, check UA, U Cx.
   Hypothyroidism
   Mild hypothyroidism from tests from [**8-15**]. Team discontinued prior
   synthroid, not clear why from notes; will discuss with them in AM.
   Coagulopathy/anticoagulation
   Hold warfarin given supratherapeutic INR 3.9
   Check daily INR.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2119-8-16**] 11:36 PM
   20 Gauge - [**2119-8-16**] 11:36 PM
   18 Gauge - [**2119-8-18**] 01:31 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2119-08-19 11:29:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   63 yo man with ETOH cirrhosis.  Admitted for encephalopathy to floor.
   Tranferred to ICU for hyperglycemia and worsening agitation.   Has had
   significant ileus limiting lactulosis.
   Has had hypernatremia.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2119-8-17**] 12:48 AM
   Piperacillin - [**2119-8-17**] 02:46 AM
   Ciprofloxacin - [**2119-8-17**] 10:19 AM
   Piperacillin/Tazobactam (Zosyn) - [**2119-8-19**] 08:14 AM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2119-8-19**] 06:00 AM
   Pantoprazole (Protonix) - [**2119-8-19**] 08:14 AM
   Heparin Sodium (Prophylaxis) - [**2119-8-19**] 08:14 AM
   Other medications:
   rifaxamin
   SSI
   lactulose
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Integumentary (skin): No(t) Rash
   Flowsheet Data as of  [**2119-8-19**] 11:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.6
C (96
   HR: 76 (68 - 119) bpm
   BP: 126/69(84) {109/55(69) - 169/107(121)} mmHg
   RR: 14 (13 - 21) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92.2 kg (admission): 90.6 kg
   Height: 67 Inch
             Total In:
                                                                  2,742 mL
                                                                    978 mL
   PO:
             TF:
   IVF:
                                                                  2,542 mL
                                                                    928 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                  1,850 mL
                                                                    210 mL
   Urine:
                                                                    500 mL
                                                                    210 mL
   NG:
                                                                  1,350 mL
   Stool:
   Drains:
   Balance:
                                                                    892 mL
                                                                    768 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///20/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: No(t) Bowel sounds present, Distended, firm
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Tone: Normal, answers some questions
   Labs / Radiology
   9.9 g/dL
   170 K/uL
   40 mg/dL
   3.1 mg/dL
   20 mEq/L
   3.2 mEq/L
   43 mg/dL
   109 mEq/L
   146 mEq/L
   30.3 %
   11.6 K/uL
        [image002.jpg]
                             [**2119-8-17**]  02:56 AM
                             [**2119-8-17**]  09:58 AM
                             [**2119-8-17**]  02:35 PM
                             [**2119-8-17**]  10:00 PM
                             [**2119-8-18**]  03:09 AM
                             [**2119-8-18**]  04:45 AM
                             [**2119-8-18**]  12:16 PM
                             [**2119-8-18**]  07:30 PM
                             [**2119-8-19**]  03:54 AM
   WBC
   7.1
   9.4
   13.0
   11.6
   Hct
   30.0
   30.6
   32.6
   30.3
   Plt
   102
   108
   147
   170
   Cr
   2.9
   2.9
   2.8
   3.0
   2.8
   3.1
   3.1
   3.1
   3.1
   Glucose
   191
   195
   188
   183
   [**Telephone/Fax (2) 7918**]1
   40
   Other labs: PT / PTT / INR:37.5/44.7/3.9, ALT / AST:[**9-17**], Alk Phos / T
   Bili:118/1.9, Differential-Neuts:84.7 %, Lymph:8.5 %, Mono:2.9 %,
   Eos:3.6 %, Lactic Acid:2.8 mmol/L, Albumin:4.8 g/dL, LDH:248 IU/L,
   Ca++:10.3 mg/dL, Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 INEFFECTIVE COPING
 HYPERNATREMIA (HIGH SODIUM)
 LIVER FUNCTION ABNORMALITIES
 CIRRHOSIS OF LIVER, ALCOHOLIC
 DIABETES MELLITUS (DM), TYPE II
 ACUTE CONFUSION
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   Cirrhosis:  Will remove 4L of ascites fluid today.
   MS:  might be little better as answering some questions in both english
   and portuguese
   acute renal failure:  could be partially due to ascites, will check
   bladder pressure.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2119-8-16**] 11:36 PM
   20 Gauge - [**2119-8-16**] 11:36 PM
   18 Gauge - [**2119-8-18**] 01:31 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:
   ------ Protected Section ------
   35 minutes spent.
   Full Code.
   Stays in ICU
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 1065**], MD
   on:[**2119-8-19**] 11:31 ------

2119-08-20 07:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PARACENTESIS - At [**2119-8-19**] 02:00 PM
   -patient's wife here late morning, early afternoon, reports substantial
   improvement in mental status, she reports he is at baseline.
   -paracentesis performed - removed 4 L of turbid fluid.  WBC 125.
   -no residuals to NG tube, multiple bowel movements.
   -calm and cooperative during the day yesterday, did well with liquid
   diet in the evening.
   -NG tube still in place, will remove this morning.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2119-8-17**] 10:19 AM
   Vancomycin - [**2119-8-19**] 11:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2119-8-20**] 02:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2119-8-19**] 08:14 AM
   Heparin Sodium (Prophylaxis) - [**2119-8-20**] 12:12 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-8-20**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.4
C (97.6
   HR: 79 (70 - 96) bpm
   BP: 144/87(100) {104/56(66) - 159/98(111)} mmHg
   RR: 16 (14 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92.2 kg (admission): 90.6 kg
   Height: 67 Inch
    Bladder pressure: 17 (17 - 17) mmHg
   Total In:
                                                                  1,620 mL
                                                                    230 mL
   PO:
                                                                    120 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  1,450 mL
                                                                    170 mL
   Blood products:
   Total out:
                                                                    670 mL
                                                                    360 mL
   Urine:
                                                                    670 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    950 mL
                                                                   -130 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   Calm, cooperative, oriented, comfortable
   Lungs with decreased breath sounds, CTAB
   RRR, no audible murmurs.
   Abdomen distended, tense, but non-tender, with +BS.  Paracentesis site
   dressing clean, dry.
   Trace pedal edema.
   Labs / Radiology
   104 K/uL
   9.4 g/dL
   123 mg/dL
   2.6 mg/dL
   22 mEq/L
   3.5 mEq/L
   38 mg/dL
   107 mEq/L
   141 mEq/L
   29.0 %
   4.9 K/uL
        [image002.jpg]
                             [**2119-8-17**]  09:58 AM
                             [**2119-8-17**]  02:35 PM
                             [**2119-8-17**]  10:00 PM
                             [**2119-8-18**]  03:09 AM
                             [**2119-8-18**]  04:45 AM
                             [**2119-8-18**]  12:16 PM
                             [**2119-8-18**]  07:30 PM
                             [**2119-8-19**]  03:54 AM
                             [**2119-8-19**]  04:42 PM
                             [**2119-8-20**]  03:59 AM
   WBC
   9.4
   13.0
   11.6
   4.9
   Hct
   30.6
   32.6
   30.3
   29.0
   Plt
   108
   147
   170
   104
   Cr
   2.9
   2.8
   3.0
   2.8
   3.1
   3.1
   3.1
   3.1
   2.9
   2.6
   Glucose
   195
   188
   183
   660
   137
   81
   121
   40
   183
   123
   Other labs: PT / PTT / INR:32.2/47.0/3.2, ALT / AST:[**9-17**], Alk Phos / T
   Bili:118/1.9, Differential-Neuts:84.7 %, Lymph:8.5 %, Mono:2.9 %,
   Eos:3.6 %, Lactic Acid:2.8 mmol/L, Albumin:4.8 g/dL, LDH:248 IU/L,
   Ca++:9.6 mg/dL, Mg++:1.8 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 INEFFECTIVE COPING
 HYPERNATREMIA (HIGH SODIUM)
 LIVER FUNCTION ABNORMALITIES
 CIRRHOSIS OF LIVER, ALCOHOLIC
 DIABETES MELLITUS (DM), TYPE II
 ACUTE CONFUSION
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   [**Known lastname **]
   Leukocytosis: Remains afebrile
 leukocytosis stable. Transferred to
   ICU with suspected infection given hyperglycemia, and treated
   empirically.  However, he has remained afebrile and improved
   clinically.  Yesterday 4 liters of turbid peritoneal fluid were removed
   by paracentesis.  Procedure tolerated well, cell count negative for SBP
 only 125 WBC.
   - DC vanco/Zosyn, back to Cipro for SBP prophylaxis.
   - follow pending cultures.
   Altered mental status:
   AMS likely due to hepatic encephalopathy, but very much improved during
   the day yesterday and overnight.  His wife reports that he is at his
   baseline, he responds to questions appropriately with translation,
   tolerated paracentesis very well.  No residuals with NG tube, tolerated
   soft diet in the evening.  Regular bowel movements yesterday.
   - gently correcting hypernatremia though doubt this is major
   contributor, with D5W for free water deficit.
   -Continue lactulose per NGT at decreased dose, now with frequent bowel
   movements.
   Liver failure - Not yet listed for transplant. Transplant committee
   asking for colonoscopy and outpatient relapse therapy.
   -Continuing lactulose and albumin.
   -Paracentesis performed yesterday
 4 L removed, 25 g albumin given (6
   g/L as recommended by hepatology.
   Hyperglycemia / diabetes
 marked hyperglycemia on transfer to MICU,
   initially on insulin drip.  Now sugars under much better control, with
   one hypoglycemic episode yesterday morning.  Sliding scale adjusted
   given lack of PO intake.
   -[**Last Name (un) 294**] recs reviewed.
   -likely will need further adjustment today, with resumption of PO
   intake.
   Hypernatremia - D5W with potassium yesterday given for high sodium, low
   potassium.  Labs this morning improved.
   Renal failure: creatinine stably elevated with slight improvement
   today.
   -urine osm high, bladder pressure 17 before paracentesis.
   - Liver failure likely contributing to some degree of pre-renal failure
   although the degree of resolution suggests against HRS.
   -renal following
   Hypothyroidism
   -restarted home Synthroid.
   Coagulopathy/anticoagulation
   -Holding warfarin given supratherapeutic INR - reduced today from 3.9
   to 3.2
   -Continue to check daily INR.
   ICU Care
   Nutrition:
   Glycemic Control:  Lantus, sliding scale
   Lines:
   Dialysis Catheter - [**2119-8-16**] 11:36 PM
   20 Gauge - [**2119-8-16**] 11:36 PM
   18 Gauge - [**2119-8-18**] 01:31 PM
   Prophylaxis:
   DVT: elevated INR as above, boots
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  full code
   Disposition:  call out to floor

2119-08-20 11:18:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   63 yo man with ETOH cirrhosis, ARF, encephalopathy, hyperglycemia.
   Mental status much improved.  Had
   paracentesis yesterday - removed 4L.
   24 Hour Events:
 PARACENTESIS - At [**2119-8-19**] 02:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2119-8-19**] 11:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2119-8-20**] 08:14 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2119-8-20**] 08:14 AM
   Other medications:
   protonix
   albumin
   rifaxamin
   lantis 30/SSI
   lactulose
   synthroid
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: No(t) Dry mouth
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Integumentary (skin): No(t) Jaundice
   Neurologic: No(t) Headache
   Psychiatric / Sleep: No(t) Agitated
   Allergy / Immunology: No(t) Immunocompromised
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2119-8-20**] 11:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.1
C (97
   HR: 84 (70 - 96) bpm
   BP: 145/88(103) {104/56(66) - 159/98(111)} mmHg
   RR: 16 (15 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92.2 kg (admission): 90.6 kg
   Height: 67 Inch
   Bladder pressure: 17 (17 - 17) mmHg
   Total In:
                                                                  1,620 mL
                                                                    831 mL
   PO:
                                                                    120 mL
                                                                    520 mL
   TF:
   IVF:
                                                                  1,450 mL
                                                                    311 mL
   Blood products:
   Total out:
                                                                    670 mL
                                                                    480 mL
   Urine:
                                                                    670 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    950 mL
                                                                    351 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   9.4 g/dL
   104 K/uL
   123 mg/dL
   2.6 mg/dL
   22 mEq/L
   3.5 mEq/L
   38 mg/dL
   107 mEq/L
   141 mEq/L
   29.0 %
   4.9 K/uL
         [image002.jpg]
                             [**2119-8-17**]  09:58 AM
                             [**2119-8-17**]  02:35 PM
                             [**2119-8-17**]  10:00 PM
                             [**2119-8-18**]  03:09 AM
                             [**2119-8-18**]  04:45 AM
                             [**2119-8-18**]  12:16 PM
                             [**2119-8-18**]  07:30 PM
                             [**2119-8-19**]  03:54 AM
                             [**2119-8-19**]  04:42 PM
                             [**2119-8-20**]  03:59 AM
   WBC
   9.4
   13.0
   11.6
   4.9
   Hct
   30.6
   32.6
   30.3
   29.0
   Plt
   108
   147
   170
   104
   Cr
   2.9
   2.8
   3.0
   2.8
   3.1
   3.1
   3.1
   3.1
   2.9
   2.6
   Glucose
   195
   188
   183
   660
   137
   81
   121
   40
   183
   123
   Other labs: PT / PTT / INR:32.2/47.0/3.2, ALT / AST:[**9-17**], Alk Phos / T
   Bili:118/1.9, Differential-Neuts:84.7 %, Lymph:8.5 %, Mono:2.9 %,
   Eos:3.6 %, Lactic Acid:2.8 mmol/L, Albumin:4.8 g/dL, LDH:248 IU/L,
   Ca++:9.6 mg/dL, Mg++:1.8 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 INEFFECTIVE COPING
 HYPERNATREMIA (HIGH SODIUM)
 LIVER FUNCTION ABNORMALITIES
 CIRRHOSIS OF LIVER, ALCOHOLIC
 DIABETES MELLITUS (DM), TYPE II
 ACUTE CONFUSION
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   Overall much improved.  MS [**First Name (Titles) **] [**Last Name (Titles) 4578**] according to family.  Will
   removed NGT.
   Acute renal failure: improving
   hyperglycemia:  much improved.
   Can stop vanco/zosyn and switch to PO cipro
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2119-8-16**] 11:36 PM
   20 Gauge - [**2119-8-16**] 11:36 PM
   18 Gauge - [**2119-8-18**] 01:31 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes